US05817700
(E)-1-(Methylthio)-4-[2-(3 ,5-difluorophenyl)ethenyl]benzene
Following the procedure describe in Method 3, but substituting 4-methylthiostyrene (from method 4, step 1) and 1-bromo-3,5-difluorobenzene for 4-fluorostyrene and 4-methylthioanisole, the title product was obtained after flash chromatography (silica gel; toluene/hexane (50:50)) as an orange oil.

reactant | 1-bromo-3,5-difluorobenzene | BrC1=CC(=CC(=C1)F)F | C6H3BrF2
reactant | 4-fluorostyrene | FC1=CC=C(C=C)C=C1 | C8H7F
reactant | 4-methylthioanisole | CC1=CC=C(C=C1)SC | C8H10S
solvent | toluene hexane | C1(=CC=CC=C1)C.CCCCCC
product | (E)-1-(Methylthio)-4-[2-(3 ,5-difluorophenyl)ethenyl]benzene | CSC1=CC=C(C=C1)\C=C\C1=CC(=CC(=C1)F)F | C15H12F2S
